US07615642B2
Step C: 1-{[2-(1,1-dimethylpropyl)-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-yl]sulfonyl}-1H-pyrrole-3-carboxylic acid
Oxone (148 mg, 0.24 mmol) was added to a solution of 1-{[2-(1,1-dimethylpropyl)-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-yl]sulfonyl}-1H-pyrrole-3-carbaldehyde (89 mg, 0.20 mmol) in DMF (8 mL). The resulting mixture was stirred overnight at room temperature and used directly for step A. MS (ESI) (M+H)+=460.06.

reactant | Oxone | 0.24 mmol, 148 mg | OOS(=O)[O-].[K+]
reactant | 1-{[2-(1,1-dimethylpropyl)-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-yl]sulfonyl}-1H-pyrrole-3-carbaldehyde | 0.20 mmol, 89 mg | CC(CC)(C)C1=NC2=C(N1CC1CCOCC1)C=CC(=C2)S(=O)(=O)N2C=C(C=C2)C=O | C23H29N3O4S
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | 1-{[2-(1,1-dimethylpropyl)-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-yl]sulfonyl}-1H-pyrrole-3-carboxylic acid | CC(CC)(C)C1=NC2=C(N1CC1CCOCC1)C=CC(=C2)S(=O)(=O)N2C=C(C=C2)C(=O)O | C23H29N3O5S
